US06262095B1
To a suspension of 5.0 g (24 mmol) of 2-amino-3-chloro-1,4-dihydro-1,4-dioxonaphthalene in 130 mL of water, 8.4 g (35 mmol) of nonahydrated sodium sulfide are added. The reaction mixture is heated to reflux for 20 min, then 50 mL of an aqueous solution containing 1.0 g of sodium sulfate are added. The color of the medium changes completely to blue. 2.60 mL (24 mmol) of 4-fluorobenzaldehyde and 6.36 mL of glacial acetic acid are added successively. After 1 h of reflux, the greenish precipitate obtained is filtered, dried, and purified on a flash column (support: silica; conditioning: heptane; eluant: dichloromethane/heptane, 60/40). The yellow crystals formed after evaporation of the solvent are washed successively with the isopropanol and ether, then uncolored and recrystallized in dichloromethane to produce 2.0 g of 4,9-dihydro-4,9-dioxo-2-(4-fluorophenyl)naphtho[2,3-d]thiazole in the form of yellow crystals.

reactant | 2-amino-3-chloro-1,4-dihydro-1,4-dioxonaphthalene | 24 mmol, 5.0 g | NC=1C(C2=CC=CC=C2C(C1Cl)=O)=O | C10H6ClNO2
reactant | sodium sulfate | 1.0 g | S(=O)(=O)([O-])[O-].[Na+].[Na+]
reactant | 4-fluorobenzaldehyde | 24 mmol, 2.60 mL | FC1=CC=C(C=O)C=C1 | C7H5FO
reactant | acetic acid | 6.36 mL | C(C)(=O)O | C2H4O2
solvent | water | 130 mL | O | H2O
product | 4,9-dihydro-4,9-dioxo-2-(4-fluorophenyl)naphtho[2,3-d]thiazole | 2.0 g, Yield: 27% | O=C1C=2C=CC=CC2C(C2=C1N=C(S2)C2=CC=C(C=C2)F)=O | C17H8FNO2S
